US09303033B2
To 5-(7-(tert-butoxycarbonyl(cyclopropyl)amino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid (1 g, 2.33 mmol) was added 8 mL of 4M HCl in dioxane and another 5 mL of dioxane. The reaction mixture was stirred at 80° C. for 2 hours, cooled to room temperature and partitioned between CH2Cl2 and H2O. The emulsion that formed between the layers was filtered off and rinsed with H2O. The recovered solid was dried under vacuum to provide 627 mg of 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid as a red solid (82%). LCMS (M+1=329)

reactant | 5-(7-(tert-butoxycarbonyl(cyclopropyl)amino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid | 2.33 mmol, 1 g | C(C)(C)(C)OC(=O)N(C1=CC(=NC=2N1N=CC2C=O)C2=CC=C(S2)C(=O)O)C2CC2 | C20H20N4O5S
reactant | HCl | 4M, 8 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid | 627 mg, 82% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC=C(S2)C(=O)O | C15H12N4O3S
